US20010044118A1
Synthesis of 4-isothiocyanatobenzoyl Chloride
A mixture of 500 mg (2.79 mmol) of 4-carboxyphenylisothiocyanate and 5 ml of thionyl chloride was refluxed for 6 hours. The reaction mixture was concentrated at reduced pressure and the resulting tan solid was pumped at high vacuum overnight. The solid was triturated with a small amount of hexane and collected by suction filtration to yield 516 mg (93%) of product as an off-white solid.

reactant | 4-carboxyphenylisothiocyanate | 2.79 mmol, 500 mg | C(=O)(O)C1=CC=C(C=C1)N=C=S | C8H5NO2S
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-isothiocyanatobenzoyl Chloride | 516 mg, 93% | N(=C=S)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNOS
